US09056832B2
To DMF (32 mL) degassed by purging with argon was added 4-bromo-4′-fluoro-1,1′-biphenyl (3.2 g, 12.7 mmol), bis(pinacolato)diboron (3.56 g, 14.0 mmol) and potassium acetate (3.76 g, 30.0 mmol), and the mixture was degassed again. Pd(dppf)Cl2 (276 mg, 0.38 mmol) was added and the mixture was degassed again for 15 minutes. The reaction mixture was heated at 53° C. in an oil bath overnight. The reaction was checked by TLC (heptane eluent), shown to be incomplete, and heated to 65° C. for an additional 4 h. TLC showed some starting material remaining. The reaction mixture was diluted with ethyl acetate and extracted with brine. The organic layer was dried (sodium sulfate) and concentrated under reduced pressure to obtain the crude product. Purification by column chromatography (60-120 mesh silica gel, 0 to 5% ethyl acetate/heptane eluent) yielded 3.1 g of 2-(4′-fluoro-[1,1′-biphenyl]-4-yl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane.

reactant | 4-bromo-4′-fluoro-1,1′-biphenyl | 12.7 mmol, 3.2 g | BrC1=CC=C(C=C1)C1=CC=C(C=C1)F | C12H8BrF
reactant | bis(pinacolato)diboron | 14.0 mmol, 3.56 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 30.0 mmol, 3.76 g | C(C)(=O)[O-].[K+]
catalyst | Pd(dppf)Cl2 | 0.38 mmol, 276 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 2-(4′-fluoro-[1,1′-biphenyl]-4-yl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 3.1 g | FC1=CC=C(C=C1)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C18H20BFO2
